US05155113
Preparation of 4-hydroxy-2-(4-methylbenzoyloxy)-pyridine
To 3.5 g of 2,4-bis(trimethylsilyloxy)-pyridine in 50 ml of methylene chloride was added 2.34 g of p-methylbenzoyl chloride and the mixture was stirred at room temperature for one hour. Following thereafter the general procedure of Example 27, 1.86 g of the title compound was produced in a yield of 59.2%.

reactant | 2,4-bis(trimethylsilyloxy)-pyridine | 3.5 g | C[Si](OC1=NC=CC(=C1)O[Si](C)(C)C)(C)C | C11H21NO2Si2
reactant | p-methylbenzoyl chloride | 2.34 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-2-(4-methylbenzoyloxy)-pyridine | 1.86 g, yield of 59.2% | OC1=CC(=NC=C1)OC(C1=CC=C(C=C1)C)=O | C13H11NO3
